US09290451B2
b) 6-(3-Chloro-phenyl)-5-(tetrahydro-furan-2-yl)-pyridine-2-carboxylic acid
A mixture of 6-(3-chlorophenyl)-5-(tetrahydrofuran-2-yl)-pyridine-2-carboxylic acid methyl ester (0.3 g, 1 mmol) and lithium hydroxide monohydrate (CAN 1310-66-3, 130 mg, 3 mmol) in THF/H2O 1/1 (20 mL) was stirred at room temperature for 1 h. After removal of the organic solvent under reduced pressure the aqueous phase was washed with ethyl acetate (10 mL) and acidified with 1 N HCl to pH=3. The resulting solution was extracted with ethyl acetate (2×20 mL). The organic layer was concentrated under reduced pressure to give the title compound (0.28 g, 98%) as black oil which was used in the next step without further purification; MS (EI): m/e=304.0 [M+H]+.

reactant | 6-(3-chlorophenyl)-5-(tetrahydrofuran-2-yl)-pyridine-2-carboxylic acid methyl ester | 1 mmol, 0.3 g | COC(=O)C1=NC(=C(C=C1)C1OCCC1)C1=CC(=CC=C1)Cl | C17H16ClNO3
reactant | lithium hydroxide monohydrate | 3 mmol, 130 mg | O.[OH-].[Li+]
solvent | methanol ethyl acetate | 20 mL | CO.C(C)(=O)OCC
product | 6-(3-Chloro-phenyl)-5-(tetrahydro-furan-2-yl)-pyridine-2-carboxylic acid | 0.28 g, 98% | ClC=1C=C(C=CC1)C1=C(C=CC(=N1)C(=O)O)C1OCCC1 | C16H14ClNO3
